US05849735
N-[4-(4H-Thieno[3,4-b][1,5]benzodiazepin-9(10H)-yl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
As described for Example 400, 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine is reacted with 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride to give the product as a solid.

reactant | 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine | C=1SC=C2NC3=C(NCC21)C=CC=C3 | C11H10N2S
reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]-2-chlorobenzoyl chloride | C=1(C(=CC=CC1)C(=O)NC1=CC(=C(C(=O)Cl)C=C1)Cl)C1=CC=CC=C1 | C20H13Cl2NO2
product | N-[4-(4H-Thieno[3,4-b][1,5]benzodiazepin-9(10H)-yl)-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | C=1SC=C2NC3=C(N(CC21)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)C=CC=C3 | C30H22ClN3OS
